US07977331B1
To a suspension of methyl 2-bromo-3-cyclohexyl-1-[2-(1,3-dioxo-1,3-dihydroisoindol-2-yl)ethyl]-1H-indole-6-carboxylate (3.96 g, 7.78 mmol) in methanol (50 ml) and tetrahydrofuran (30 ml) was added hydrazine monohydrate (1.88 ml, 38.7 mmol), and the mixture was stirred at room temperature for 14 hr. The reaction mixture was filtered with celite and washed with ethyl acetate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform:methanol=30:1-15:1) to give methyl 1-(2-aminoethyl)-2-bromo-3-cyclohexyl-1H-indole-6-carboxylate (2.95 g, yield 100%).

reactant | methyl 2-bromo-3-cyclohexyl-1-[2-(1,3-dioxo-1,3-dihydroisoindol-2-yl)ethyl]-1H-indole-6-carboxylate | 7.78 mmol, 3.96 g | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CCN1C(C2=CC=CC=C2C1=O)=O | C26H25BrN2O4
reactant | hydrazine monohydrate | 38.7 mmol, 1.88 ml | O.NN
solvent | methanol | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | methyl 1-(2-aminoethyl)-2-bromo-3-cyclohexyl-1H-indole-6-carboxylate | 2.95 g, yield 100% | NCCN1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)Br | C18H23BrN2O2
